US04210758
1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid
A suspension of ethyl 1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylate (4.5 g, 0.0158 mole) in 5 N hydrochloric acid (100 ml) is refluxed under nitrogen for 20 hours. The reaction mixture is cooled and diluted with water. The product is filtered off, washed with water and sucked dry. Recrystallization from dimethylformamide gives white crystals (3.5 g, 85%), m.p. 295-297 (dec.).

reactant | ethyl 1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylate | 0.0158 mole, 4.5 g | O=C1C2=C(N(C=C1C(=O)OCC)C)C(OC1=C2C=CC=C1)=O | C16H13NO5
solvent | hydrochloric acid | 5 N, 100 ml | Cl | ClH
solvent | water | O | H2O
product | 1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylic acid | 3.5 g, 85% | O=C1C2=C(N(C=C1C(=O)O)C)C(OC1=C2C=CC=C1)=O | C14H9NO5
